US05571774
N-tert-Butyl-6-chloro-5-nitropyridine-2,3-dicarboximide
100 ml of phosphoryl chloride were treated with 7.5 g (0.028 mol) of N-tert-butyl-5-nitropyridine-2,3-dicarboximide-1-oxide at 60° C. and in portions in the course of 2 minutes with stirring and the mixture was stirred under reflux for 2 hours. The reaction mixture was concentrated under reduced pressure, the residue was taken up in methylene chloride and the solution was stirred into ice-water. The organic phase was extracted in succession with water, saturated sodium hydrogencarbonate and sodium chloride solution and dried. After filtering off with suction through neutral alumina, it was concentrated and the residue was stirred with ether and ether/pentane, filtered off with suction and dried. 4.49 g (56% of theory) of the title compound of m.p. 100°-104° C. were obtained (active compound Example 1.019).

reactant | N-tert-butyl-5-nitropyridine-2,3-dicarboximide-1-oxide | 0.028 mol, 7.5 g | C(C)(C)(C)N1C(=O)C2=[N+](C=C(C=C2C1=O)[N+](=O)[O-])[O-] | C11H11N3O5
reactant | phosphoryl chloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-tert-Butyl-6-chloro-5-nitropyridine-2,3-dicarboximide | C(C)(C)(C)N1C(=O)C2=NC(=C(C=C2C1=O)[N+](=O)[O-])Cl | C11H10ClN3O4
